US04249015
Adam's catalyst (0.2 g) was added to a solution of 1-(2-cyclohexen-1-yl)-2,2,2-trichloroethanol (23 g) in methanol (220 ml) and this mixture was stirred under a slight positive pressure of hydrogen. Uptake of hydrogen was complete after 400 minutes and the solution was then filtered. The filtrate was evaporated to give 1-cyclohexyl-2,2,2-trichloroethanol of 90% purity as judged by G.L.C. An attempt to purify this material by distillation through a spinning band column gave material of only 85% purity due, presumably, to decomposition brought about by prolonged heating. This material was used without further treatment.

reactant | 1-(2-cyclohexen-1-yl)-2,2,2-trichloroethanol | 23 g | C1(C=CCCC1)C(C(Cl)(Cl)Cl)O | C8H11Cl3O
reactant | hydrogen | [H][H] | H2
catalyst | Adam's catalyst | 0.2 g | O=[Pt]=O
solvent | methanol | 220 ml | CO | CH4O
product | 1-cyclohexyl-2,2,2-trichloroethanol | C1(CCCCC1)C(C(Cl)(Cl)Cl)O | C8H13Cl3O
